US04042571
Equimolar proportions of naphthalene-2,7-dicarboxylic acid and hexamethylene diamine were dissolved in water to form a salt. Then, ethyl alcohol was added to form hexamethylene diammonium naphthalene-2,7-dicarboxylate as a white powder which did not contain water of crystallization.

reactant | naphthalene-2,7-dicarboxylic acid | C1=C(C=CC2=CC=C(C=C12)C(=O)O)C(=O)O | C12H8O4
reactant | hexamethylene diamine | NCCCCCCN | C6H16N2
reactant | ethyl alcohol | C(C)O | C2H6O
solvent | water | O | H2O
product | hexamethylene diammonium naphthalene-2,7-dicarboxylate | C1=C(C=CC2=CC=C(C=C12)C(=O)[O-])C(=O)[O-].[NH3+]CCCCCC[NH3+] | InChI=1S/C12H8O4.C6H16N2/c13-11(14)8-3-1-7-2-4-9(12(15)16)6-10(7)5-8;7-5-3-1-2-4-6-8/h1-6H,(H,13,14)(H,15,16);1-8H2
